US05736550
c) 4-Amino-1-(p-fluorobenzyl)piperidine
To a solution of 1-(p-fluorobenzyl)-4-phthalimidopiperidine (3.0 g, 8.9 mmol) in ethanol (30 ml) was added hydrazine monohydrate (0.7 ml) and the mixture was heated under reflux for 3 hours. After allowed to cool, to the reaction mixture was added 5N hydrochloric acid (50 ml) and insolubles were filtered off. Then, the filtrate was washed with chloroform (30 ml×3). The aqueous layer was neutralized with potassium carbonate and then extracted with chloroform (50 ml×4). After drying over anhydrous magnesium sulfate, the solvent was distilled off to give 1.7 g of the title compound. Yield=94%.

reactant | 1-(p-fluorobenzyl)-4-phthalimidopiperidine | 8.9 mmol, 3.0 g | FC1=CC=C(CN2CCC(CC2)N2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C20H19FN2O2
reactant | hydrazine monohydrate | 0.7 ml | O.NN
reactant | hydrochloric acid | 5N, 50 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-Amino-1-(p-fluorobenzyl)piperidine | 1.7 g, Yield=94% | NC1CCN(CC1)CC1=CC=C(C=C1)F | C12H17FN2
